US07312241B2
Tetrabutylammonium fluoride (1.0 M solution in THF, 5.55 ml, 5.55 mmol) was added at rt to a stirred solution of 3-[4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile (1.97 g, 4.63 mmol) in THF (35 ml). The colorless clear solution immediately turned into brown/red wine color. The reaction should be done within one hour. Ice water (15 ml) was poured into the reddish solution, followed by addition of ether (80 ml). The mixture was washed with water (2×100 ml), dried over MgSO4, filtered and concentrated to a yellow oil, which was lyophilized to give 3-(3,5-dimethoxy-phenyl)-3-(4-hydroxy-3-methoxy-phenyl)-acrylonitrile as a white gummy solid (1.26 g, 88%): mp, 120-122° C.; 1HNMR (DMSO-d6) δ 9.68 (s, 1H, OH group of one isomer), 9.60 (s, 1H, OH group of the other isomer), 7.11-6.61 (m, 8H, Ar), 6.49-6.46 (m, 4H, Ar), 6.23 (s, 1H, double bond proton of one isomer), 6.11 (s, 1H, double bond proton of the other isomer), 3.78-3.74 (multiple singlets, 18H, 6OCH3), isomer ratio based on 1HNMR was 49%:51%; 13C NMR (CDCl3) δ 163.0, 162.9, 160.9, 160.8, 148.2, 147.7, 146.6, 146.3, 141.6, 139.2, 130.9, 128.9, 124.2, 122.9, 118.5, 118.2, 114.6, 114.5, 112.3, 110.6, 107.9, 107.2, 102.3, 102.2, 93.7, 93.1, 56.4, 56.2, 55.7, 55.6; Anal. Calcd. For C18H17NO4: C, 69.44; H, 5.50; N, 4.50. Found: C, 69.24; H, 5.38; N, 4.27.

reactant | Tetrabutylammonium fluoride | 5.55 mmol, 1.0 M, 5.55 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile | 4.63 mmol, 1.97 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C(=CC#N)C1=CC(=CC(=C1)OC)OC)OC)(C)C | C24H31NO4Si
reactant | ether | 80 ml | CCOCC | C4H10O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 3-(3,5-dimethoxy-phenyl)-3-(4-hydroxy-3-methoxy-phenyl)-acrylonitrile | 1.26 g, 88% | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=C(C=C1)O)OC | C18H17NO4
